US09212141B2
In a typical reaction, crude 2-(4-chlorophenyl)-6-(diethoxymethyl)-3-fluoro-N-(4-methoxyphenyl)pyridin-4-amine is treated with two equivalents of 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione in an acetonitrile/water mixture. The mixture is stirred at ambient temperature until the reaction is complete. The solid product is collected by filtration, washed with additional acetonitrile/water mixture and dried, providing crude 4-((3-chloro-6-(4-chlorophenyl)-2-(diethoxymethyl)-5-fluoropyridin-4-yl)imino)cyclohexa-2,5-dienone.

reactant | 2-(4-chlorophenyl)-6-(diethoxymethyl)-3-fluoro-N-(4-methoxyphenyl)pyridin-4-amine | ClC1=CC=C(C=C1)C1=NC(=CC(=C1F)NC1=CC=C(C=C1)OC)C(OCC)OCC | C23H24ClFN2O3
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | two equivalents | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
solvent | acetonitrile water | C(C)#N.O
product | 4-((3-chloro-6-(4-chlorophenyl)-2-(diethoxymethyl)-5-fluoropyridin-4-yl)imino)cyclohexa-2,5-dienone | ClC=1C(=NC(=C(C1N=C1C=CC(C=C1)=O)F)C1=CC=C(C=C1)Cl)C(OCC)OCC | C22H19Cl2FN2O3
